US05399712
A solution of 802 mg of pentafluorophenyl pyruvate in 20 ml of dichloromethane was added dropwise to a solution of 266 mg (1 mmol) of isopropyl 1-methyl-3-indoleacetimidate hydrochloride and 808 mg (8 mmol) of triethylamine in 20 ml of dichloromethane. After completion of the addition, the mixture was stirred at room temperature for 18 hours. Then, 1.9 g (10 mmol) of p-toluenesulfonic acid were added and stirring was continued for 1 hour. The solvent was removed under reduced pressure. The residue was purified by flash chromatography on silica gel using ethyl acetate/dichloromethane (1:8) for the elution to give 24 mg(10% ) of 3-methyl-4-(1 -methyl-3-indolyl)- 1H-pyrrole-2,5-dione in the form of a yellow solid of melting point 181° C.

reactant | pentafluorophenyl pyruvate | 802 mg | C(C(=O)C)(=O)OC1=C(C(=C(C(=C1F)F)F)F)F | C9H3F5O3
reactant | isopropyl 1-methyl-3-indoleacetimidate hydrochloride | 1 mmol, 266 mg | Cl.CN1C=C(C2=CC=CC=C12)CC(OC(C)C)=N
reactant | triethylamine | 8 mmol, 808 mg | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonic acid | 10 mmol, 1.9 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 3-methyl-4-(1 -methyl-3-indolyl)- 1H-pyrrole-2,5-dione | 24 mg, 10% | CC=1C(NC(C1C1=CN(C2=CC=CC=C12)C)=O)=O | C14H12N2O2
